US06642253B2
2d. 1-Amino-6-cyano-3-methylisoquinoline
Palladium acetate (0.28 g) was added to a heated mixture of trifluoro-methanesulfonic acid 1-amino-3-methylisoquinolin-6-yl ester (1.9 g), zinc cyanide (0.74 g) and triphenylphosphine (0.33 g) in 24 mL of N-methyl-pyrrolidone at 190° C. (exothermic!). Stirring was continued at 190° C. for 2 h After cooling to room temperature, ethyl acetate was added and the organic mixture washed with 2N aqueous ammonia, water and brine and dried (magnesium sulfate). Filtration and concentration afforded a brownish oil, which was purified by silica chromatography (dichloromethane/methanol=98/2) to give 0.68 g of the title compound. ESI-MS: 184 (MH+).

reactant | trifluoro-methanesulfonic acid 1-amino-3-methylisoquinolin-6-yl ester | 1.9 g | NC1=NC(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C | C11H9F3N2O3S
reactant | triphenylphosphine | 0.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N-methyl-pyrrolidone | 24 mL | CN1C(CCC1)=O | C5H9NO
catalyst | Palladium acetate | 0.28 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | zinc cyanide | 0.74 g | [C-]#N.[Zn+2].[C-]#N
product | 1-Amino-6-cyano-3-methylisoquinoline | 0.68 g | NC1=NC(=CC2=CC(=CC=C12)C#N)C | C11H9N3
